US07638541B2
Step 2: 4-(5-Hydroxymethyl-[1,2,4]oxadiazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of hydroxy-acetic acid (1.67 g, 22 mmol), NEt3 (4.4 g, 44 mmol) in toluene (150 mL) was added isobutylchloroformate (6 g, 44 mmol) at 0° C. The mixture was stirred at room temperature for 1.5 hours. 4-(N-Hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester (5.35 g, 22 mmol) was added to the mixture. The mixture was heated under reflux overnight, and then cooled to room temperature; the mixture was washed successively with H2O and brine. After drying (Na2SO4), the solvent was removed. The residue was dissolved in THF (20 mL), and aqueous NaOH (10 mL, 10 mmol) was added. The mixture was stirred at room temperature for 2 hours and diluted with EtOAc (50 mL). The organic layer was washed with brine, after drying (Na2SO4), the solvent was removed in vacuo, and the residue was purified by silica column chromatography with EtOAc/hexanes to afford the desired product.

reactant | hydroxy-acetic acid | 22 mmol, 1.67 g | OCC(=O)O | C2H4O3
reactant | NEt3 | 44 mmol, 4.4 g | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 44 mmol, 6 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-(N-Hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester | 22 mmol, 5.35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NO)=N | C11H21N3O3
reactant | NaOH | 10 mmol, 10 mL | [OH-].[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-(5-Hydroxymethyl-[1,2,4]oxadiazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC(=N1)CO | C13H21N3O4
